US06586617B1
To a solution of 2-aminobenzonitrile (4.00 g (33.9 mmol)) and sodium thiocyanate (3.00 g (37.0 mmol)) in methanol (20 ml), a solution of bromine (5.50 g (34.4 mmol)) in methanol (5.0 ml) was added dropwise over a period of 40 minutes under cooling with ice and with stirring. The mixture was then stirred under cooling with ice for 30 mitutes, and then neutralized with a saturated aqueous solution of sodium bicarbonate and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography with chloroform as eluent to give 4.21 g (71%) of 2-amino-5-thiocyanobenzonitrile as pale yellow-white crystals.

reactant | 2-aminobenzonitrile | 33.9 mmol, 4.00 g | NC1=C(C#N)C=CC=C1 | C7H6N2
reactant | sodium thiocyanate | 37.0 mmol, 3.00 g | [S-]C#N.[Na+]
reactant | bromine | 34.4 mmol, 5.50 g | BrBr | Br2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 5.0 ml | CO | CH4O
product | 2-amino-5-thiocyanobenzonitrile | 4.21 g, 71% | NC1=C(C#N)C=C(C=C1)SC#N | C8H5N3S
